US07615642B2
Step C: N-[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]acetamide
Following the same procedure in Example 1, Step F, using N-{5-(acetylamino)-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-dimethylbutanamide (5.12 g, 14.2 mmol) in AcOH (60 mL). Yield: 2.30 g (47%). 1H NMR (400 MHz, CHLOROFORM-D): δ 0.78 (t, J=7.42 Hz, 3 H), 1.45-1.60 (m, 10 H), 1.86 (q, J=7.42 Hz, 2 H), 2.19 (s, 3 H), 2.22-2.37 (m, 1 H), 3.24-3.38 (m, 2 H), 3.91-4.02 (m, 2 H), 4.17 (d, J=7.42 Hz, 2 H), 7.26 (d, J=8.5 Hz, 1 H), 7.39 (s, 1 H), 7.53 (dd, J=8.69, 2.05 Hz, 1 H), 7.67 (d, J=1.95 Hz, 1 H); MS (ESI) (M+H)+=344.05.

reactant | N-{5-(acetylamino)-2-[(tetrahydro-2H-pyran-4-ylmethyl)amino]phenyl}-2,2-dimethylbutanamide | 14.2 mmol, 5.12 g | C(C)(=O)NC=1C=CC(=C(C1)NC(C(CC)(C)C)=O)NCC1CCOCC1 | C20H31N3O3
solvent | AcOH | 60 mL | CC(=O)O | C2H4O2
product | N-[2-(1,1-dimethylpropyl)-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]acetamide | CC(CC)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)NC(C)=O | C20H29N3O2
